US09062002B2
Synthesis of 1-(pyrrolidin-1-yl)prop-2-en-1-one (125b)
To a stirred solution of pyrrolidine (2 g, 28.16 mmol) in anhydrous DCM (30 ml) was added triethylamine (15.56 ml, 111.88 mmol) and acryloyl chloride (3.04 g, 33.77 mmol) at 0° C. The reaction mixture was stirred at 20-35° C. for 16 h. The progress of the reaction was monitored by TLC. After 16 h of stirring, the reaction mixture was diluted with water (50 ml) and extracted with ethyl acetate (2×50 ml). The combined organic layers was washed with brine (50 ml), followed by drying over anhydrous Na2SO4 and filtering. The filtrate was rotary evaporated to get the desired compound as a brown liquid (1.1 g, 31%). 1H NMR (400 MHz, DMSO-d6) δ 6.49-6.33 (m, 2H), 5.66 (dd, J=9.8, 2.4 Hz, 1H), 3.54 (dt, J=6.8, 3.9 Hz, 4H), 2.02-1.91 (m, 2H), 1.90-1.82 (m, 2H).

reactant | pyrrolidine | 28.16 mmol, 2 g | N1CCCC1 | C4H9N
reactant | triethylamine | 111.88 mmol, 15.56 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 33.77 mmol, 3.04 g | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 1-(pyrrolidin-1-yl)prop-2-en-1-one | 1.1 g, 31% | N1(CCCC1)C(C=C)=O | C7H11NO
